US09403768B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-2-phenylacetic acid (5.26 g, 20.9 mmol, Eq: 2) and pyridine (2.8 mL, 34.5 mmol, Eq: 3.3) in DCM (60 mL), cyanuric fluoride (4.66 g, 2.99 mL, 34.5 mmol, Eq: 3.3) was added. The reaction mixture was stirred at 23° C. for 2 h. The resulting precipitate was filtered off and the mother liquor was concentrated in vacuo. The residue was taken up in EtOAc, and washed with saturated aqueous NaHCO3, 0.5 M aqueous citric acid and brine, and concentrated in vacuo. The light brown oil was taken up in DCM (20 mL) and cooled in an ice bath. To this acid fluoride solution was added a solution of (S)-ethyl indoline-2-carboxylate (2 g, 10.5 mmol, Eq: 1) and 2,6-di-tert-butylpyridine (4.00 g, 4.62 mL, 20.9 mmol, Eq: 2) in DCM (20 mL). The resulting mixture was stirred at rt overnight. The reaction was concentrated in vacuo and the crude material was purified by flash chromatography (silica gel, 5% to 20% EtOAc in hexanes) to give (S)-1-((S)-2-tert-butoxycarbonylamino-2-phenyl-acetyl)-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester (2.78 g) as a light yellow foam, m/z=425 (M+H).

reactant | (S)-2-(tert-butoxycarbonylamino)-2-phenylacetic acid | 20.9 mmol, 5.26 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | pyridine | 34.5 mmol, 2.8 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 34.5 mmol, 2.99 mL, 4.66 g | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | (S)-ethyl indoline-2-carboxylate | 10.5 mmol, 2 g | N1[C@@H](CC2=CC=CC=C12)C(=O)OCC | C11H13NO2
reactant | 2,6-di-tert-butylpyridine | 20.9 mmol, 4.62 mL, 4.00 g | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-((S)-2-tert-butoxycarbonylamino-2-phenyl-acetyl)-2,3-dihydro-1H-indole-2-carboxylic acid ethyl ester | 2.78 g | C(C)OC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H28N2O5
